US08791303B2
To a mixture of 4-[1-(4-Methoxy-cyclohexyl)-meth-(E)-ylidene]-2-(2,4,6-trimethyl-phenyl)-cyclopentane-1,3-dione (150 mg, 0.44 mmol) and ethanol (3.5 ml) is added 5% palladium on carbon (30 mg) and the resulting mixture hydrogenated at 3 bar pressure for 3 hours. The reaction mixture is then filtered through celite and the filtrate concentrated under reduced pressure to give 4-(4-Methoxy-cyclohexylmethyl)-2-(2,4,6-trimethyl-phenyl)-cyclopentane-1,3-dione as a pale yellow solid (142 mg).

reactant | 4-[1-(4-Methoxy-cyclohexyl)-meth-(E)-ylidene]-2-(2,4,6-trimethyl-phenyl)-cyclopentane-1,3-dione | 0.44 mmol, 150 mg | COC1CCC(CC1)\C=C/1\C(C(C(C1)=O)C1=C(C=C(C=C1C)C)C)=O | C22H28O3
catalyst | palladium on carbon | 30 mg | [Pd] | Pd
solvent | ethanol | 3.5 ml | C(C)O | C2H6O
product | 4-(4-Methoxy-cyclohexylmethyl)-2-(2,4,6-trimethyl-phenyl)-cyclopentane-1,3-dione | 142 mg | COC1CCC(CC1)CC1C(C(C(C1)=O)C1=C(C=C(C=C1C)C)C)=O | C22H30O3
